US08247418B2
STEP 1. 4-METHYLPIPERIDIN-4-OL HYDROCHLORIDE
To tert-butyl 4-hydroxy-4-methylpiperidine-1-carboxylate (1.0 g, 4.6 mmol) was added hydrogen chloride, 1.0 M solution in diethyl ether (4.6 ml, 4.6 mmol). The reaction mixture was stirred at RT for 4 h. The reaction mixture was concentrated down to give a yellow oil which was used directly in the following step.

reactant | tert-butyl 4-hydroxy-4-methylpiperidine-1-carboxylate | 4.6 mmol, 1.0 g | OC1(CCN(CC1)C(=O)OC(C)(C)C)C | C11H21NO3
reactant | hydrogen chloride | Cl | ClH
reactant | diethyl ether | 4.6 mmol, 4.6 ml | C(C)OCC | C4H10O
product | 4-METHYLPIPERIDIN-4-OL HYDROCHLORIDE | Cl.CC1(CCNCC1)O | InChI=1S/C6H13NO.ClH/c1-6(8)2-4-7-5-3-6;/h7-8H,2-5H2,1H3;1H
